US03959322
13β-Cetyl-3-methoxygona-1,3,5(10),8-tetraen-17β-ol
Stir a solution of 13β-cetyl-3-methoxygona-1,3,5(10),8-tetraen-17-one (0.60 g.) and sodium borohydride (0.20 g.) in ethanol (110 cc.) for 2 hours and leave overnight. Reflux with stirring for 2 hours, cool, and add an excess of 50% aqueous acetic acid. Evaporate the mixture to dryness under reduced pressure and partition the residue between ether and water. Work up in the usual manner to get an ether solution of the title product as a gum; infrared absorption peak at 3.37 μ (hydroxyl) with no band in the 5.71-5.88 mμ region; ultraviolet absorption peak at 278 mμ.

reactant | 13β-cetyl-3-methoxygona-1,3,5(10),8-tetraen-17-one | 0.60 g | C(CCCCCCCCCCCCCCC)[C@]12C(CC[C@H]2C2=C(CC1)C=1C=CC(=CC1CC2)OC)=O | C34H52O2
reactant | sodium borohydride | 0.20 g | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 110 cc | C(C)O | C2H6O
product | 13β-Cetyl-3-methoxygona-1,3,5(10),8-tetraen-17β-ol | C(CCCCCCCCCCCCCCC)[C@]12[C@H](CC[C@H]2C2=C(CC1)C=1C=CC(=CC1CC2)OC)O | C34H54O2
